US09353075B2
Step 1. Preparation of tricyclo[3.3.1.13° ′]dec-1-yl chlorocarbonate
In a four necked round bottom flask, triphosgene (9.75 g, 32.8 mmol) was dissolved in toluene (140 mL) under argon atmosphere. After cooling to 0° C., pyridine (8.5 mL, 105 mmol) was added dropwise during 1 h and the resulting suspension stirred for further 1 h at 0° C. 1-Adamantanol (10.0 g, 65.7 mmol) was added portion-wise. After stirring at rt for 24 h, the solid was filtered-off and the solvent removed under vacuum to yield the title compound (12.3 g, 88%) as yellowish oil, which was used in the next step without further purification. FTIR (cm−1): 2913, 2854, 1780, 1455, 1354, 1152, 1038, 957, 835, 802.

reactant | triphosgene | 32.8 mmol, 9.75 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | pyridine | 105 mmol, 8.5 mL | N1=CC=CC=C1 | C5H5N
reactant | 1-Adamantanol | 65.7 mmol, 10.0 g | C12(CC3CC(CC(C1)C3)C2)O | C10H16O
reactant | toluene | 140 mL | C1(=CC=CC=C1)C | C7H8
product | dec-1-yl chlorocarbonate | 12.3 g, 88% | C(OCCCCCCCCCC)(=O)Cl | C11H21ClO2
